US05026856
3.44 g of 2-benzyloxycarbonyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline was dissolved in 50 ml of methanol. 200 mg of 10% palladium on carbon was added to it and the mixture was stirred under hydrogen gas stream for 3 days. After removing the catalyst by filtration, the filtrate was concentrated and the residue was recrystallized from ether to give 1.75 g of 4-(tertbutyloxycarbonylaminomethyl)isoindoline.

reactant | 2-benzyloxycarbonyl-4-(tertbutyloxycarbonylaminomethyl)isoindoline | 3.44 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC(=C2C1)CNC(=O)OC(C)(C)C | C22H26N2O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 4-(tertbutyloxycarbonylaminomethyl)isoindoline | 1.75 g | C(C)(C)(C)OC(=O)NCC1=C2CNCC2=CC=C1 | C14H20N2O2
